US05432169
14β-Methoxy-17β-(3-furyl)-5β-androstan-3β-ol (II-c)
A solution of 3.0 g of 3β-tert-butyldimethylsilyloxy-14β-methoxy-17β-(3-furyl)-5β-androstane in 57 ml of a 1.0 M solution of tetrabutylammonium fluoride was heated at 70° C. under nitrogen for an hr and then poured into a saturated solution of sodium chloride. The mixture was extracted with ethyl acetate and the organic layer was dried over sodium sulfate, evaporated to dryness under reduced pressure and purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 80/20 as eluant to give 2.0 g of the title compound (II-c) as a white solid.

reactant | 3β-tert-butyldimethylsilyloxy-14β-methoxy-17β-(3-furyl)-5β-androstane | 3.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)OC | C30H50O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
product | 14β-Methoxy-17β-(3-furyl)-5β-androstan-3β-ol | 2.0 g | CO[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)O)C)C2=COC=C2 | C24H36O3
